US07179823B1
To a solution of 3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carbaldehyde (900 mg) and ethyl diethylphosphonoacetate (1.10 g) in N,N-dimethylformamide (20 ml), sodium hydride (60%, oily, 200 mg) was added at 0, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and ethyl(E)-3-[3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propenoate (740 mg) was obtained. After the mother liquor was concentrated, the residue was subjected to silica gel column chromatography, and 150 mg of crystals were additionally obtained from the fraction eluted with ethyl acetate-hexane (2:3, volume ratio). The total was 890 mg (yield: 87%). This was recrystallized from ethyl acetate-isopropyl ether. Melting point: 98–99° C.

reactant | 3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-carbaldehyde | 900 mg | CC1=NN(C(=C1C=O)C)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C24H23N3O3
reactant | ethyl diethylphosphonoacetate | 1.10 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-[3,5-dimethyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propenoate | 740 mg, yield: 87% | CC1=NN(C(=C1/C=C/C(=O)OCC)C)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H29N3O4
